US06610723B2
3-(3-Chloro-4-fluoro-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride
The title compound, MS: m/e=301.1 (M+) was obtained as a yellow solid (53% yield) by the reaction of 3-bromo-5-(2-methyl-imidazol-1-yl-methyl)-pyridine with 3-chloro-4-fluoro-phenyl boronic acid.

reactant | 3-bromo-5-(2-methyl-imidazol-1-yl-methyl)-pyridine | BrC=1C=NC=C(C1)CN1C(=NC=C1)C | C10H10BrN3
reactant | 3-chloro-4-fluoro-phenyl boronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 3-(3-Chloro-4-fluoro-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride | Cl.ClC=1C=C(C=CC1F)C=1C=NC=C(C1)CN1C(=NC=C1)C | InChI=1S/C16H13ClFN3.ClH/c1-11-20-4-5-21(11)10-12-6-14(9-19-8-12)13-2-3-16(18)15(17)7-13;/h2-9H,10H2,1H3;1H
